US04564476
a. 2,2-Dimethyl-3-(phenylmethoxy)-propanol
A mixture of 29.0 g (1.2 moles) of sodium hydride and 200 ml of dry DMF was stirred under an atmosphere of N2 and cooled with an ice-water bath. A solution of 125 g (1.20 moles) of 2,2-dimethylpropandiol in 100 ml of dry DMF was added with stirring. After the hydrogen gas evolution ceased, 139 ml (1.20 moles) of benzyl chloride was added and the reaction mixture was stirred at room temperature overnight. The resulting reaction solution was poured into ice-water (300 ml) and the aqueous solution was extracted with ethyl ether three times. The organic solutions were combined and washed with NaCl solution and then dried over Na2SO4. The residue, after removal of solvent, was distilled through a vigreux column to obtain the title compound, bp. 85°-87°/0.02 mmHg, as a colorless liquid.

reactant | sodium hydride | 1.2 moles, 29.0 g | [H-].[Na+]
reactant | 2,2-dimethylpropandiol | 1.20 moles, 125 g | CC(C(O)O)(C)C | C5H12O2
reactant | hydrogen | [H][H] | H2
reactant | benzyl chloride | 1.20 moles, 139 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2,2-Dimethyl-3-(phenylmethoxy)-propanol | CC(CO)(COCC1=CC=CC=C1)C | C12H18O2
